US08110687B2
A mixture of 3-bromo-5-(trifluoromethyl)aniline (1.50 mL, 10.6 mmol), water (15.0 mL), 1,2 dimethoxyethane (75 mL), [1-(tert-butoxycarbonyl)-1H-pyrrol-2-yl]boronic acid (3.36 g, 15.9 mmol) and sodium carbonate (4.50 g, 42.4 mmol) was degassed with nitrogen for 5 min. Tetrakis(triphenylphosphine)palladium(0) (0.74 mg, 0.64 mmol) was added to the mixture and the slurry was heated at 80° C. for 3 h. Water was added and the mixture was extracted with EtOAc. The organic solutions were combined, dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography on basic alumina to give tert-butyl 2-[3-amino-5-(trifluoromethyl)phenyl]-1H-pyrrole-1-carboxylate (2.58 g, 74%). LCMS: (FA) ES+ 327.3.

reactant | 3-bromo-5-(trifluoromethyl)aniline | 10.6 mmol, 1.50 mL | BrC=1C=C(N)C=C(C1)C(F)(F)F | C7H5BrF3N
reactant | [1-(tert-butoxycarbonyl)-1H-pyrrol-2-yl]boronic acid | 15.9 mmol, 3.36 g | C(C)(C)(C)OC(=O)N1C(=CC=C1)B(O)O | C9H14BNO4
reactant | sodium carbonate | 42.4 mmol, 4.50 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.64 mmol, 0.74 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | O | H2O
solvent | 1,2 dimethoxyethane | 75 mL | COCCOC | C4H10O2
solvent | water | 15.0 mL | O | H2O
product | tert-butyl 2-[3-amino-5-(trifluoromethyl)phenyl]-1H-pyrrole-1-carboxylate | 2.58 g, 74% | NC=1C=C(C=C(C1)C(F)(F)F)C=1N(C=CC1)C(=O)OC(C)(C)C | C16H17F3N2O2
